US08067450B2
Step 1: Preparation of 2-(2-methoxyphenyl)oxirane
To a solution of 2-vinyl anisole (5.0 g, 0.037 mol) and acetic acid (2.1 mL, 37 mmol) in dioxane (33 ml) and H2O (78 ml) at 0° C. was added N-bromosuccinimide (7.30 g, 40.1 mmol) in three portions. The reaction was allowed to warm to R.T. and after 1 hour, 2M NaOH (50 ml) was added. The reaction was left to stir at RT overnight. The reaction mixture was partitioned between water and EtOAc, and the aqueous phase was extracted with EtOAc. The combined organic phases were washed with brine, dried (Na2SO4), filtered and evaporated in vacuo to give 7.56 g slightly tinted oil. This was dissolved in dioxane, 2N NaOH was added and the reaction was stirred at RT overnight. Repeated aqueous work-up gave 5.60 g of the title compound as a nearly colorless oil.

reactant | 2-vinyl anisole | 0.037 mol, 5.0 g | C(=C)C1=C(C=CC=C1)OC | C9H10O
reactant | acetic acid | 37 mmol, 2.1 mL | C(C)(=O)O | C2H4O2
reactant | N-bromosuccinimide | 40.1 mmol, 7.30 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | NaOH | 2M, 50 ml | [OH-].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | dioxane | 33 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 78 ml | O | H2O
product | 2-(2-methoxyphenyl)oxirane | 5.60 g | COC1=C(C=CC=C1)C1OC1 | C9H10O2
